US07074800B1
Diethyl azodicarboxylate (3.9 ml, 24.5 mmol) was added in portions to a suspension of 7-hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (5 g, 16.3 mmol), (prepared as described for the starting material in Example 12), 3-bromo-1-propanol (2.21 ml, 24.5 mmol) and triphenylphosphine (6.42 g, 24.5 mmol) in methylene chloride (50 ml). After stirring for 2 hours at ambient temperature, the volatiles were removed under vacuum and the residue was purified by column chromatography eluting with methylene chloride followed by methylene chloride/methanol (95/5) to give 7-(3-bromopropoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (6 g, 86%).

reactant | Diethyl azodicarboxylate | 24.5 mmol, 3.9 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 7-hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 16.3 mmol, 5 g | OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C15H18N2O5
reactant | 3-bromo-1-propanol | 24.5 mmol, 2.21 ml | BrCCCO | C3H7BrO
reactant | triphenylphosphine | 24.5 mmol, 6.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 7-(3-bromopropoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 6 g, 86% | BrCCCOC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C18H23BrN2O5
